US07781428B2
A mixture of 2-(bromomethyl)-4-fluorobenzonitrile (423 mg, 1.9 mmol) and 2.0 M dimethylamine (4 mL) was stirred at room temperature for thirty minutes. The mixture was then concentrated, purified by normal phase flash column chromatography, on a 20 g silica gel column (5-45% ethyl acetate/hexanes gradient), and concentrated in vacuo to yield 2-((dimethylamino)methyl)-4-fluorobenzonitrile (241 mg, 1.35 mmol, 68%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.92 (dd, J=8.59, 5.37 Hz, 1H), 7.42 (dd, J=9.94, 2.69 Hz, 1H), 7.35 (td, J=8.46, 2.69 Hz, 1H), 3.56 (s, 2H), 2.19 (s, 6H).

reactant | 2-(bromomethyl)-4-fluorobenzonitrile | 1.9 mmol, 423 mg | BrCC1=C(C#N)C=CC(=C1)F | C8H5BrFN
reactant | dimethylamine | 2.0 M, 4 mL | CNC | C2H7N
product | 2-((dimethylamino)methyl)-4-fluorobenzonitrile | 1.35 mmol, 241 mg, 68% | CN(C)CC1=C(C#N)C=CC(=C1)F | C10H11FN2
